US04058544
Tributyltin methacrylate was prepared using the general procedure described in part A of this example using twice the amounts of TBTO and methacrylic acid specified in part A. The reaction vessel was not cooled either prior to or during the addition of methacrylic acid, which was added in two portions of approximately 100 cc. each. The temperature of the reaction mixture increased to 49° C. following addition of the first portion of acid and reached a maximum of 57° C. during addition of the second portion. A 40 g. portion of anhydrous magnesium sulfate was then added, the resultant two-phase mixture stirred for 1 hour and the solid phase removed by filtration to yield 723 g. (96.4% yield) of an off-white oil which was completely miscible with methanol. The reaction product contained 30.2% tin, 0.21% water and no free TBTO or methacrylic acid. The acid number of the product was 152.6.

reactant | TBTO | CCCC[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCC
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
product | Tributyltin methacrylate | C(C(=C)C)(=O)[O-].C(CCC)[Sn+](CCCC)CCCC | InChI=1S/C4H6O2.3C4H9.Sn/c1-3(2)4(5)6;3*1-3-4-2;/h1H2,2H3,(H,5,6);3*1,3-4H2,2H3;/q;;;;+1/p-1
